US07696210B2
To a solution of 2-(4-tert-Butyl-phenyl)-4-[4-(3-fluoro-4-nitro-benzyl)-piperazin-1-yl]-1H-benzoimidazole (0.50 g, 1.03 mMol) in dimethylformamide (20 mL) was added glycine methyl ester hydrochloride (0.515 g, 4.10 mMol) and the reaction stirred at room temperature. To the homogeneous solution was added Argonaut MP carbonate resin (2.01 g, 3.06 mMol/g) and the mixture stirred for three hours. The mixture was filtered to remove the resin and the filtrate was then heated to sixty degrees and stirred overnight. Upon arrival the solution was cooled to room temperature and diluted with ethyl acetate (150 mL). After washing with water (3×50 mL) and brine (50 mL) the organics were dried with magnesium sulfate, filtered, and concentrated on a rotary evaporator. Purification by flash column chromatography on silica gel using 20 to 25% ethyl acetate in dichloromethane as eluant yielded 470 mg (82% yield) of (5-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-2-nitro-phenylamino)-acetic acid methyl ester as a yellow-orange solid. 1H NMR (DMSO-d6): δ=12.69 (s, 1H), 8.43 (t, 1H, J=4 Hz), 8.04 (d, 2H, J=8.6 Hz), 7.76 (d, 1H, J=8.3 Hz), 7.55 (d, 2H, J=8.3 Hz), 7.03 (m, 2H), 6.90 (s, 1H), 6.78 (dd, 1H, J=8.8, 1.4 Hz), 6.50 (dd, 1H, J=7.1, 1.7 Hz), 4.32 (d, 2H, J=5.8 Hz), 3.72 (s, 3H), 3.58 (m, 6H), 2.64 (br s, 4H), 1.33 (s, 9H). LC/MS (Method A), rt=1.23 mins., purity=75.0%, calculated mass=556, [M+2H]+2/2=279, [M−H]−=555.

reactant | 2-(4-tert-Butyl-phenyl)-4-[4-(3-fluoro-4-nitro-benzyl)-piperazin-1-yl]-1H-benzoimidazole | 1.03 mMol, 0.50 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2N2CCN(CC2)CC2=CC(=C(C=C2)[N+](=O)[O-])F | C28H30FN5O2
reactant | glycine methyl ester hydrochloride | 4.10 mMol, 0.515 g | Cl.COC(CN)=O
reactant | carbonate | 2.01 g | C([O-])([O-])=O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (5-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-2-nitro-phenylamino)-acetic acid methyl ester | 470 mg, 82% yield | COC(CNC1=C(C=CC(=C1)CN1CCN(CC1)C1=CC=CC=2NC(=NC21)C2=CC=C(C=C2)C(C)(C)C)[N+](=O)[O-])=O | C31H36N6O4
